US07528151B2
1,3-Dimethyl-5-nitroisoquinoline (D3)
1,3-Dimethylisoquinoline [(Chem. Lett., 1983, p.791), 2.39 g, 15.20 mM], in conc. sulfuric acid, (15 ml), was cooled to below 4° C. A solution of potassium nitrate (1.69 g, 16.72 mM) in conc. sulfuric acid was added dropwise, maintaining the temperature below 4° C. After complete addition the solution was stirred at this temperature for a further 2 h. then warmed to room temperature for 1 h. The reaction mixture was poured into ice water and the solution basified with sodium hydroxide and extracted with DCM. The extract was washed with brine, dried and concentrated to a yellow solid. Purification by silica gel chromatography afforded the title compound as a yellow crystalline solid.

reactant | 1,3-Dimethylisoquinoline | 15.20 mM, 2.39 g | CC1=NC(=CC2=CC=CC=C12)C | C11H11N
reactant | potassium nitrate | 16.72 mM, 1.69 g | [N+](=O)([O-])[O-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
product | 1,3-Dimethyl-5-nitroisoquinoline | CC1=NC(=CC2=C(C=CC=C12)[N+](=O)[O-])C | C11H10N2O2
